US05093323
Benanomicin B hydrochloride (125 mg) was dissolved in 10 ml of an aqueous solution of 0.1 M sodium carbonate, and to the resulting solution was added 0.1 ml of acetic anhydride. The mixture obtained was stirred at ambient temperature for 20 minutes. The resultant reaction solution was then adjusted to pH 4.0 by addition of 1 M hydrochloric acid and subsequently passed through a column of 20 ml of a non-ionic microporous adsorbent resin, "Diaion" HP-20 (a product of Mitsubishi Kasei Co., Japan) to adsorb the acetylation product of benanomicin B by the resin. The resin column was washed with water and developed with aqueous 80% acetone. The red colored fractions of the eluate were combined together and concentrated to dryness. The residue obtained was dissolved in methanol and the methanolic solution was passed through a column of a molecule-sieve agent, "Sephadex" LH-20 (a product of Pharmacia Co., Sweden), followed by developement with methanol. The eluate which showed a single spot of red color on a thin layer chromatography on a silica gel plate was concentrated to dryness. N-acetylbenanomicin B (118 mg) was obtained as a reddish brown colored powder which showed a melting point of higher than 200° C.

reactant | Benanomicin B hydrochloride | 125 mg | C[C@@H]1[C@@H]([C@@H]([C@H]([C@@H](O1)O[C@@H]2[C@H](C3=C(C4=C(C(=C(C=C24)C)C(=O)N[C@H](C)C(=O)O)O)C(=C5C(=C3)C(=O)C6=C(C=C(C=C6C5=O)OC)O)O)O)O)O[C@H]7[C@@H]([C@H]([C@@H](CO7)O)O)O)N.Cl
reactant | acetic anhydride | 0.1 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | 1 M | Cl | ClH
reactant | benanomicin B | C[C@@H]1[C@@H]([C@@H]([C@H]([C@@H](O1)O[C@@H]2[C@H](C3=C(C4=C(C(=C(C=C24)C)C(=O)NC(C)C(=O)O)O)C(=C5C(=C3)C(=O)C6=C(C=C(C=C6C5=O)OC)O)O)O)O)O[C@H]7[C@@H]([C@H]([C@@H](CO7)O)O)O)N | C39H42N2O18
solvent | sodium carbonate | 0.1 M | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | CO | CH4O
product | N-acetylbenanomicin B | 118 mg | C[C@@H]1[C@@H]([C@@H]([C@H]([C@@H](O1)O[C@@H]2[C@H](C3=C(C4=C(C(=C(C=C24)C)C(=O)N[C@H](C)C(=O)O)O)C(=C5C(=C3)C(=O)C6=C(C=C(C=C6C5=O)OC)O)O)O)O)O[C@H]7[C@@H]([C@H]([C@@H](CO7)O)O)O)NC(=O)C | C41H44N2O19
